US04034088
Ethyl (2-mesyl-imidazol-1-yl)-acetate (21.4 g.) in 4N sulphuric acid (50 cc.) is heated under reflux for 11/2 hours. A product crystallises on cooling. Crystallisation is completed by keeping the mixture in a bath of ice and water for 5 hours. After filtration, crystals (13.7 g.) which melt at 216- 217° C. are obtained. Recrystallisation from water (110 cc.) gives (2-mesylimidazol-1-yl)-acetic acid (12.7 g.), melting at 218- 219° C.

reactant | Ethyl (2-mesyl-imidazol-1-yl)-acetate | 21.4 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)OCC | C8H12N2O4S
solvent | sulphuric acid | 4N, 50 cc | S(O)(O)(=O)=O | H2O4S
product | (2-mesylimidazol-1-yl)-acetic acid | 12.7 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)O | C6H8N2O4S
